US05889010
N-(2-Nitro4-fluorophenyl)-3-[4-(4-fluorophenyl)piperazin-1-yl]propionamide
A mixture of 14.8 gm of N-(2-nitro-4-fluorophenyl)-3-bromo-propionamide, 9.0 gm of 1 -(4-fluoro-phenyl)-piperazine, 6.46 gm of diisopropylethylamine and 150 ml DMF was kept for 48 hours at 150° C. Water (300 ml) was added at ambient temperature and the mixture was extracted with CHCl3. The CHCl3 extract was collected, washed with 20 ml water and dried over Na2SO4. The crude product obtained after removing the solvents was purified by using chromatography: solid phase (SIO2 ; 40 μm; Baker); eluent CHCI3. A sample of this purified material (12.7 gm) exhibited the following data. M+/z of 405.

reactant | N-(2-nitro-4-fluorophenyl)-3-bromo-propionamide | 14.8 gm | [N+](=O)([O-])C1=C(C=CC(=C1)F)NC(CCBr)=O | C9H8BrFN2O3
reactant | 1 -(4-fluoro-phenyl)-piperazine | 9.0 gm | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | diisopropylethylamine | 6.46 gm | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | Water | 300 ml | O | H2O
product | N-(2-Nitro4-fluorophenyl)-3-[4-(4-fluorophenyl)piperazin-1-yl]propionamide | [N+](=O)([O-])C1=C(C=CC(=C1)F)NC(CCN1CCN(CC1)C1=CC=C(C=C1)F)=O | C19H20F2N4O3
